US04315858
A suspension of 6.9 g (30 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 10 g (100 mmol) of potassium bicarbonate, and 100 ml of water is stirred at room temperature and 300 ml of dimethylformamide is added followed by 6.0 ml (43 mmol) of benzyl chloroformate. The mixture is stirred at room temperature for 2 hrs and 6.0 ml of benzyl chloroformate and 6.0 g of potassium bicarbonate are added. The reaction is stirred overnight at room temperature and poured into 700 ml of ice water. The pH is adjusted to 3 with hydrochloric acid and the precipitate is filtered, washed with water, and dried to give 9.44 g of 6-[4-(benzyloxycarbonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid after recrystallization from N,N-dimethylacetamide-methanol.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 30 mmol, 6.9 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | potassium bicarbonate | 100 mmol, 10 g | C([O-])(O)=O.[K+]
reactant | benzyl chloroformate | 43 mmol, 6.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 6.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | potassium bicarbonate | 6.0 g | C([O-])(O)=O.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 6-[4-(benzyloxycarbonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 9.44 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C20H16N2O5
